US04874775
N-(2,4-dimethoxyphenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide
A 7.3 g. portion of 3-(2,4-dimethoxyphenylaminomethyl)pyridine was dissolved in 25 ml. of dichloromethane, and 5.5 g. of potassium carbonate and 3.1 ml. of methanesulfonyl chloride were added. The mixture was stirred under reflux overnight. Then it was cooled, diluted with 25 ml. of dichloromethane and washed with 25 ml. of aqueous sodium bicarbonate. The organic layer was separated, washed with water, dried over magnesium sulfate and evaporated under vacuum. The residue was suspended in ethyl acetate, and filtered. The filtrate was evaporated, and the residue was triturated with diethyl ether, filtered and dried under vacuum to obtain 6.7 g. of the desired product, m.p. 117°-119°.

reactant | 3-(2,4-dimethoxyphenylaminomethyl)pyridine | COC1=C(C=CC(=C1)OC)NCC=1C=NC=CC1 | C14H16N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,4-dimethoxyphenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide | COC1=C(C=CC(=C1)OC)N(S(=O)(=O)C)CC=1C=NC=CC1 | C15H18N2O4S
